US05981636
Preparative Example 8 Disodium bicyclo[2.2.1]hept-5-en-2,3-dicarboxylate
To a suspension of bicyclo[2.2.2]-oct-5-en-2,3-dicarboxylic anhydride (2.01 g, 11.3 mmole) in MeOH (50 mL) was added 1 N aq. NaOH (22.4 mL, 22.4 mmol). The reaction mixture was stirred for 1 hour at room temperature. The solvent was removed in vacuo and the resulting colorless solid was dried: mp>400 C.

reactant | bicyclo[2.2.2]-oct-5-en-2,3-dicarboxylic anhydride | 11.3 mmole, 2.01 g | C12C3C(C(C=C1)CC2)C(=O)OC3=O | C10H10O3
reactant | NaOH | 22.4 mmol, 1 N, 22.4 mL | [OH-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | Disodium bicyclo[2.2.1]hept-5-en-2,3-dicarboxylate | C12C(C(C(C=C1)C2)C(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C9H10O4.2Na/c10-8(11)6-4-1-2-5(3-4)7(6)9(12)13;;/h1-2,4-7H,3H2,(H,10,11)(H,12,13);;/q;2*+1/p-2
